US09326987B2
Methyl 6-bromo-1-[(4-methylphenyl)sulfonyl]-1H-indazole-4-carboxylate
Sodium hydride (1.289 g, 32.2 mmol) was added portion wise to a solution of methyl 6-bromo-1H-indazole-4-carboxylate (4.11 g, 16.11 mmol) in N,N-dimethylformamide (50 ml) at 0° C. The dark orange mixture was stirred at 0° C. for 10 mins, then treated with 4-methylbenzenesulfonyl chloride (3.38 g, 17.72 mmol). The resultant pale cream mixture was stirred for 30 mins at 0° C. then poured into water (1000 ml). The cream precipitate was filtered off under vacuum and dried in the vacuum oven at 50° C. for 18 h to give the title compound as a yellow solid (5.51 g).

reactant | Sodium hydride | 32.2 mmol, 1.289 g | [H-].[Na+]
reactant | methyl 6-bromo-1H-indazole-4-carboxylate | 16.11 mmol, 4.11 g | BrC=1C=C(C=2C=NNC2C1)C(=O)OC | C9H7BrN2O2
reactant | 4-methylbenzenesulfonyl chloride | 17.72 mmol, 3.38 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | water | 1000 ml | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Methyl 6-bromo-1-[(4-methylphenyl)sulfonyl]-1H-indazole-4-carboxylate | 5.51 g | BrC=1C=C(C=2C=NN(C2C1)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OC | C16H13BrN2O4S
